* Created by KLayout
*** My special header ***

* cell opamp_r2r_chiriro
* pin INM
* pin INP
* pin VB
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_chiriro INM INP VB VDD VSS
* cell instance $1 r0 *1 23232.4,196032.5
X$1 \$3 VDD \$1 \$2 \$17 VSS opamp_r2r_ABAMP_chihiro
* cell instance $4 r0 *1 602.8,25.8
X$4 \$19 \$16 \$1 \$12 \$17 \$14 \$3 \$13 VDD \$2 \$9 \$4 \$18 VSS
+ opamp_r2r_cascode
* cell instance $9 r0 *1 472645.6,105254.3
X$9 \$21 \$12 INM \$4 \$18 INP \$19 \$16 \$9 VDD \$8 VSS opamp_r2r_diff_chihiro
* cell instance $14 r0 *1 0,0
X$14 \$12 \$21 \$8 \$13 \$9 \$14 VB VDD VSS opamp_r2r_CS
.ENDS opamp_r2r_chiriro

* cell opamp_r2r_ABAMP_chihiro
* pin AB_P
* pin VDD
* pin AB_N
* pin CAP_P
* pin CAP_N
* pin VSS
.SUBCKT opamp_r2r_ABAMP_chihiro AB_P VDD AB_N CAP_P CAP_N VSS
* device instance $1 r0 *1 -22304.2,-195968.2 PMOS
XM$1 VDD AB_P OUT VDD PMOS L=5u W=30u AS=84p AD=45p PS=65.6u PD=33u
* device instance $2 r0 *1 -22296.2,-195968.2 PMOS
XM$2 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $3 r0 *1 -22288.2,-195968.2 PMOS
XM$3 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $4 r0 *1 -22280.2,-195968.2 PMOS
XM$4 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $5 r0 *1 -22272.2,-195968.2 PMOS
XM$5 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $6 r0 *1 -22264.2,-195968.2 PMOS
XM$6 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $7 r0 *1 -22256.2,-195968.2 PMOS
XM$7 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $8 r0 *1 -22248.2,-195968.2 PMOS
XM$8 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $9 r0 *1 -22240.2,-195968.2 PMOS
XM$9 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $10 r0 *1 -22232.2,-195968.2 PMOS
XM$10 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $11 r0 *1 -22224.2,-195968.2 PMOS
XM$11 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $12 r0 *1 -22216.2,-195968.2 PMOS
XM$12 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $13 r0 *1 -22208.2,-195968.2 PMOS
XM$13 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $14 r0 *1 -22200.2,-195968.2 PMOS
XM$14 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $15 r0 *1 -22192.2,-195968.2 PMOS
XM$15 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $16 r0 *1 -22184.2,-195968.2 PMOS
XM$16 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $17 r0 *1 -22176.2,-195968.2 PMOS
XM$17 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $18 r0 *1 -22168.2,-195968.2 PMOS
XM$18 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $19 r0 *1 -22160.2,-195968.2 PMOS
XM$19 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $20 r0 *1 -22152.2,-195968.2 PMOS
XM$20 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $21 r0 *1 -22144.2,-195968.2 PMOS
XM$21 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $22 r0 *1 -22136.2,-195968.2 PMOS
XM$22 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $23 r0 *1 -22128.2,-195968.2 PMOS
XM$23 VDD AB_P OUT VDD PMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $24 r0 *1 -22120.2,-195968.2 PMOS
XM$24 OUT AB_P VDD VDD PMOS L=5u W=30u AS=45p AD=84p PS=33u PD=65.6u
* device instance $25 r0 *1 -22256.2,-196047 NMOS
XM$25 VSS AB_N OUT VSS NMOS L=5u W=30u AS=84p AD=45p PS=65.6u PD=33u
* device instance $26 r0 *1 -22248.2,-196047 NMOS
XM$26 OUT AB_N VSS VSS NMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $27 r0 *1 -22240.2,-196047 NMOS
XM$27 VSS AB_N OUT VSS NMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $28 r0 *1 -22232.2,-196047 NMOS
XM$28 OUT AB_N VSS VSS NMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $29 r0 *1 -22224.2,-196047 NMOS
XM$29 VSS AB_N OUT VSS NMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $30 r0 *1 -22216.2,-196047 NMOS
XM$30 OUT AB_N VSS VSS NMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $31 r0 *1 -22208.2,-196047 NMOS
XM$31 VSS AB_N OUT VSS NMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $32 r0 *1 -22200.2,-196047 NMOS
XM$32 OUT AB_N VSS VSS NMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $33 r0 *1 -22192.2,-196047 NMOS
XM$33 VSS AB_N OUT VSS NMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $34 r0 *1 -22184.2,-196047 NMOS
XM$34 OUT AB_N VSS VSS NMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $35 r0 *1 -22176.2,-196047 NMOS
XM$35 VSS AB_N OUT VSS NMOS L=5u W=30u AS=45p AD=45p PS=33u PD=33u
* device instance $36 r0 *1 -22168.2,-196047 NMOS
XM$36 OUT AB_N VSS VSS NMOS L=5u W=30u AS=45p AD=84p PS=33u PD=65.6u
* device instance $37 r90 *1 -22477.6,-196057.4 F_CSIO
XC$37 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=1
* device instance $38 r90 *1 -22477.6,-195958 F_CSIO
XC$38 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=1
* device instance $39 r90 *1 -22378.2,-196057.4 F_CSIO
XC$39 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=1
* device instance $40 r90 *1 -22378.2,-195958 F_CSIO
XC$40 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=1
.ENDS opamp_r2r_ABAMP_chihiro

* cell opamp_r2r_cascode
* pin INP_P
* pin INM_P
* pin AB_N
* pin BNI
* pin CAP_N
* pin BNF
* pin AB_P
* pin BPF
* pin VDD
* pin CAP_P
* pin BPI
* pin INP_N
* pin INM_N
* pin VSS
.SUBCKT opamp_r2r_cascode INP_P INM_P AB_N BNI CAP_N BNF AB_P BPF VDD CAP_P BPI
+ INP_N INM_N VSS
* cell instance $1 m90 *1 -126,-100
X$1 AB_N INP_P BNI VSS NFET_CASCODE_MID
* cell instance $2 r0 *1 -30,-50
X$2 CAP_N \$12 INP_P VSS NFET_PHESE
* cell instance $3 m90 *1 -112,-150
X$3 INP_P \$6 VSS VSS NFET_CASCODE_BOTTOM
* cell instance $4 r0 *1 -60,-150
X$4 VSS INP_P VSS VSS NFET_ZEROCAN
* cell instance $11 r0 *1 -196,-150
X$11 INM_P \$6 VSS VSS NFET_CASCODE_BOTTOM
* cell instance $12 r0 *1 -182,-100
X$12 \$6 INM_P BNI VSS NFET_CASCODE_MID
* cell instance $15 r0 *1 -30,-100
X$15 \$12 \$5 \$12 VSS NFET_ZEROCAN
* cell instance $16 r0 *1 -30,-150
X$16 \$5 VSS \$5 VSS NFET_ZEROCAN
* cell instance $17 m90 *1 -160,0
X$17 VDD \$20 \$6 BPF PFET_CASCODE_BOTTOM
* cell instance $18 r0 *1 -240,0
X$18 VDD \$20 \$6 VDD PFET_CASCODE_BOTTOM
* cell instance $19 r0 *1 -221,-50
X$19 VSS \$6 \$20 VSS NFET_CASCODE_TOP
* cell instance $21 m90 *1 -179,-50
X$21 BNF \$6 \$20 VSS NFET_CASCODE_TOP
* cell instance $23 m90 *1 -68,0
X$23 VDD AB_P AB_N VDD PFET_CASCODE_BOTTOM
* cell instance $24 r0 *1 -148,0
X$24 VDD AB_P AB_N BPF PFET_CASCODE_BOTTOM
* cell instance $25 r0 *1 10,-100
X$25 AB_N VSS \$13 VSS NFET_ZEROCAN
* cell instance $26 m90 *1 -87,-50
X$26 VSS AB_N AB_P VSS NFET_CASCODE_TOP
* cell instance $27 r0 *1 -129,-50
X$27 BNF AB_N AB_P VSS NFET_CASCODE_TOP
* cell instance $30 r0 *1 -50,45
X$30 VDD VDD \$12 AB_P PFET_ZEROCAN
* cell instance $33 r0 *1 -50,0
X$33 INP_N VDD \$13 CAP_P PFET_PHESE
* cell instance $34 r0 *1 -4,45
X$34 VDD \$53 \$13 \$13 PFET_ZEROCAN
* cell instance $37 r0 *1 -208,45
X$37 INM_N VDD BPI \$20 PFET_CASCODE_MID
* cell instance $38 r0 *1 -236,90
X$38 VDD VDD \$20 INM_N PFET_CASCODE_TOP
* cell instance $39 m90 *1 -72,90
X$39 VDD VDD \$20 INP_N PFET_CASCODE_TOP
* cell instance $51 m90 *1 -100,45
X$51 INP_N VDD BPI AB_P PFET_CASCODE_MID
* cell instance $58 r0 *1 -4,90
X$58 VDD VDD \$53 \$53 PFET_ZEROCAN
* cell instance $59 r0 *1 -60,90
X$59 VDD VDD INP_N VDD PFET_ZEROCAN
.ENDS opamp_r2r_cascode

* cell opamp_r2r_CS
* pin BNI
* pin BNO
* pin BPO
* pin BPF
* pin BPI
* pin BNF
* pin VB
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_CS BNI BNO BPO BPF BPI BNF VB VDD VSS
* cell instance $1 r0 *1 -240.2,-130.4
X$1 VSS \$6 BNI VSS NFET_CS_BOTTOM
* cell instance $2 r0 *1 -194.1,-87.6
X$2 BNO BNI \$9 VSS NFET_CS_TOP
* cell instance $3 r0 *1 -240.2,39
X$3 VDD VDD BNI VB PFET_CS_BOTTOM
* cell instance $4 r0 *1 5.2,-87.6
X$4 \$22 BNI \$5 VSS NFET_CS_TOP
* cell instance $5 r0 *1 -101,-87.6
X$5 BPI BNI \$8 VSS NFET_CS_TOP
* cell instance $6 r0 *1 -54.8,-87.6
X$6 BPO BNI \$7 VSS NFET_CS_TOP
* cell instance $7 r0 *1 65.2,-87.6
X$7 BPF BNI \$4 VSS NFET_CS_TOP
* cell instance $8 r0 *1 -240.2,-44.8
X$8 \$13 BNI BNI VSS NFET_CS_BOTTOM
* cell instance $9 r0 *1 -240.2,-87.6
X$9 \$13 \$6 BNI VSS NFET_CS_BOTTOM
* cell instance $10 r0 *1 -267.3,-44.8
X$10 VSS BNI VSS VSS NFET_CS_BOTTOM
* cell instance $11 m90 *1 -160,39
X$11 VDD VDD BNO VB PFET_CS_BOTTOM
* cell instance $12 r0 *1 65.2,-130.4
X$12 VSS BNO \$4 VSS NFET_CS_TOP
* cell instance $13 r0 *1 -54.8,-130.4
X$13 VSS BNO \$7 VSS NFET_CS_TOP
* cell instance $14 r0 *1 -101,-130.4
X$14 VSS BNO \$8 VSS NFET_CS_TOP
* cell instance $15 r0 *1 -194.1,-130.4
X$15 VSS BNO \$9 VSS NFET_CS_TOP
* cell instance $20 r0 *1 5.2,-130.4
X$20 VSS \$22 \$5 VSS NFET_CS_TOP
* cell instance $41 r0 *1 -54.8,39
X$41 \$43 VDD BPI BPO PFET_CS_TOP
* cell instance $42 r0 *1 5.2,81
X$42 VDD VDD BPO \$44 PFET_CS_TOP
* cell instance $43 r0 *1 -54.8,81
X$43 VDD VDD BPO \$43 PFET_CS_TOP
* cell instance $48 r0 *1 65.2,0
X$48 \$38 VDD BPF BPF PFET_CS_TOP
* cell instance $49 r0 *1 5.2,-44.8
X$49 BNF BNF \$22 VSS NFET_CS_TOP
* cell instance $52 r0 *1 -148,0
X$52 VDD VDD BPI VDD PFET_CS_BOTTOM
* cell instance $53 r0 *1 -101,0
X$53 VDD \$51 BPI BPI PFET_CS_BOTTOM
* cell instance $54 r0 *1 65.2,39
X$54 \$45 VDD BPI \$38 PFET_CS_TOP
* cell instance $55 r0 *1 5.2,39
X$55 \$44 VDD BPI BNF PFET_CS_TOP
* cell instance $56 r0 *1 -101,81
X$56 VDD VDD \$56 BPI PFET_CS_BOTTOM
* cell instance $57 r0 *1 -101,39
X$57 VDD \$56 \$51 BPI PFET_CS_BOTTOM
* cell instance $70 r0 *1 65.2,81
X$70 VDD VDD \$38 \$45 PFET_CS_TOP
.ENDS opamp_r2r_CS

* cell opamp_r2r_diff_chihiro
* pin BNO
* pin BNI
* pin INM
* pin INP_N
* pin INM_N
* pin INP
* pin INP_P
* pin INM_P
* pin BPI
* pin VDD
* pin BPO
* pin VSS
.SUBCKT opamp_r2r_diff_chihiro BNO BNI INM INP_N INM_N INP INP_P INM_P BPI VDD
+ BPO VSS
* device instance $1 m90 *1 -472368.8,-105215.4 PMOS
XM$1 INM_P INM \$48 VDD PMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $2 m90 *1 -472376.8,-105215.4 PMOS
XM$2 \$48 INM INM_P VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $3 m90 *1 -472384.8,-105215.4 PMOS
XM$3 INM_P INM \$48 VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $4 m90 *1 -472392.8,-105215.4 PMOS
XM$4 \$48 INM INM_P VDD PMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $5 r0 *1 -472460.2,-105215.4 PMOS
XM$5 INP_P INP \$48 VDD PMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $6 r0 *1 -472452.2,-105215.4 PMOS
XM$6 \$48 INP INP_P VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $7 r0 *1 -472444.2,-105215.4 PMOS
XM$7 INP_P INP \$48 VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $8 r0 *1 -472436.2,-105215.4 PMOS
XM$8 \$48 INP INP_P VDD PMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $9 m90 *1 -472368.8,-105171.5 PMOS
XM$9 \$48 BPI \$62 VDD PMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $10 m90 *1 -472376.8,-105171.5 PMOS
XM$10 \$62 BPI \$48 VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $11 m90 *1 -472384.8,-105171.5 PMOS
XM$11 \$48 BPI \$62 VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $12 m90 *1 -472392.8,-105171.5 PMOS
XM$12 \$62 BPI \$48 VDD PMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $13 r0 *1 -472460.2,-105171.5 PMOS
XM$13 \$48 BPI \$59 VDD PMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $14 r0 *1 -472452.2,-105171.5 PMOS
XM$14 \$59 BPI \$48 VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $15 r0 *1 -472444.2,-105171.5 PMOS
XM$15 \$48 BPI \$59 VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $16 r0 *1 -472436.2,-105171.5 PMOS
XM$16 \$59 BPI \$48 VDD PMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $17 m90 *1 -472368.8,-105128.9 PMOS
XM$17 VDD BPO \$62 VDD PMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $18 m90 *1 -472376.8,-105128.9 PMOS
XM$18 \$62 BPO VDD VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $19 m90 *1 -472384.8,-105128.9 PMOS
XM$19 VDD BPO \$62 VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $20 m90 *1 -472392.8,-105128.9 PMOS
XM$20 \$62 BPO VDD VDD PMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $21 r0 *1 -472460.2,-105128.9 PMOS
XM$21 VDD BPO \$59 VDD PMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $22 r0 *1 -472452.2,-105128.9 PMOS
XM$22 \$59 BPO VDD VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $23 r0 *1 -472444.2,-105128.9 PMOS
XM$23 VDD BPO \$59 VDD PMOS L=5u W=15u AS=22.5p AD=22.5p PS=18u PD=18u
* device instance $24 r0 *1 -472436.2,-105128.9 PMOS
XM$24 \$59 BPO VDD VDD PMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $25 r0 *1 -472450.2,-105355 NMOS
XM$25 \$2 BNO VSS VSS NMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $26 r0 *1 -472442.2,-105355 NMOS
XM$26 VSS BNO \$2 VSS NMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $27 r0 *1 -472450.2,-105311.9 NMOS
XM$27 \$2 BNI \$16 VSS NMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $28 r0 *1 -472442.2,-105311.9 NMOS
XM$28 \$16 BNI \$2 VSS NMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $29 m90 *1 -472378.8,-105355 NMOS
XM$29 \$3 BNO VSS VSS NMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $30 m90 *1 -472386.8,-105355 NMOS
XM$30 VSS BNO \$3 VSS NMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $31 m90 *1 -472378.8,-105311.9 NMOS
XM$31 \$3 BNI \$16 VSS NMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $32 m90 *1 -472386.8,-105311.9 NMOS
XM$32 \$16 BNI \$3 VSS NMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $33 m90 *1 -472378.8,-105270.4 NMOS
XM$33 \$16 INM INM_N VSS NMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $34 m90 *1 -472386.8,-105270.4 NMOS
XM$34 INM_N INM \$16 VSS NMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
* device instance $35 r0 *1 -472450.2,-105270.4 NMOS
XM$35 \$16 INP INP_N VSS NMOS L=5u W=15u AS=42p AD=22.5p PS=35.6u PD=18u
* device instance $36 r0 *1 -472442.2,-105270.4 NMOS
XM$36 INP_N INP \$16 VSS NMOS L=5u W=15u AS=22.5p AD=42p PS=18u PD=35.6u
.ENDS opamp_r2r_diff_chihiro

* cell PFET_CASCODE_TOP
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_TOP \$1 \$2 \$3 \$11
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$11 \$3 \$1 \$2 PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $2 r0 *1 18.8,16.2 PMOS
XM$2 \$1 \$3 \$11 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $3 r0 *1 25.8,16.2 PMOS
XM$3 \$11 \$3 \$1 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $4 r0 *1 32.8,16.2 PMOS
XM$4 \$1 \$3 \$11 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $5 r0 *1 39.8,16.2 PMOS
XM$5 \$11 \$3 \$1 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $6 r0 *1 46.8,16.2 PMOS
XM$6 \$1 \$3 \$11 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $7 r0 *1 53.8,16.2 PMOS
XM$7 \$11 \$3 \$1 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $8 r0 *1 60.8,16.2 PMOS
XM$8 \$1 \$3 \$11 \$2 PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
.ENDS PFET_CASCODE_TOP

* cell PFET_PHESE
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_PHESE \$1 \$2 \$3 \$11
* device instance $1 r0 *1 11.9,16.2 PMOS
XM$1 \$11 \$3 \$1 \$2 PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $2 r0 *1 18.9,16.2 PMOS
XM$2 \$1 \$3 \$11 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $3 r0 *1 25.9,16.2 PMOS
XM$3 \$11 \$3 \$1 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $4 r0 *1 32.9,16.2 PMOS
XM$4 \$1 \$3 \$11 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $5 r0 *1 39.9,16.2 PMOS
XM$5 \$11 \$3 \$1 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $6 r0 *1 46.9,16.2 PMOS
XM$6 \$1 \$3 \$11 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $7 r0 *1 53.9,16.2 PMOS
XM$7 \$11 \$3 \$1 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $8 r0 *1 60.9,16.2 PMOS
XM$8 \$1 \$3 \$11 \$2 PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
.ENDS PFET_PHESE

* cell NFET_CASCODE_BOTTOM
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_BOTTOM \$1 \$2 \$6 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$1 \$2 \$6 VSS NMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $2 r0 *1 11.8,20.6 NMOS
XM$2 \$6 \$2 \$1 VSS NMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $3 r0 *1 18.8,20.6 NMOS
XM$3 \$1 \$2 \$6 VSS NMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $4 r0 *1 25.8,20.6 NMOS
XM$4 \$6 \$2 \$1 VSS NMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
.ENDS NFET_CASCODE_BOTTOM

* cell NFET_CASCODE_MID
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_MID \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $2 r0 *1 11.8,20.6 NMOS
XM$2 \$2 \$3 \$1 VSS NMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
.ENDS NFET_CASCODE_MID

* cell PFET_CASCODE_MID
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_MID \$1 \$2 \$3 \$7
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$7 \$3 \$1 \$2 PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $2 r0 *1 18.8,16.2 PMOS
XM$2 \$1 \$3 \$7 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $3 r0 *1 25.8,16.2 PMOS
XM$3 \$7 \$3 \$1 \$2 PMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $4 r0 *1 32.8,16.2 PMOS
XM$4 \$1 \$3 \$7 \$2 PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
.ENDS PFET_CASCODE_MID

* cell NFET_PHESE
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_PHESE \$1 \$2 \$6 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$1 \$2 \$6 VSS NMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $2 r0 *1 11.8,20.6 NMOS
XM$2 \$6 \$2 \$1 VSS NMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $3 r0 *1 18.8,20.6 NMOS
XM$3 \$1 \$2 \$6 VSS NMOS L=4u W=12u AS=18p AD=18p PS=15u PD=15u
* device instance $4 r0 *1 25.8,20.6 NMOS
XM$4 \$6 \$2 \$1 VSS NMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
.ENDS NFET_PHESE

* cell NFET_CASCODE_TOP
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_TOP \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,19.3 NMOS
XM$1 \$2 \$1 \$3 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
.ENDS NFET_CASCODE_TOP

* cell NFET_ZEROCAN
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_ZEROCAN \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,19.3 NMOS
XM$1 \$2 \$1 \$3 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
.ENDS NFET_ZEROCAN

* cell PFET_ZEROCAN
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_ZEROCAN \$1 \$2 \$3 \$5
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$3 \$5 \$2 \$1 PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $2 r0 *1 18.8,16.2 PMOS
XM$2 \$2 \$5 \$3 \$1 PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
.ENDS PFET_ZEROCAN

* cell PFET_CASCODE_BOTTOM
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_BOTTOM \$1 \$2 \$3 \$5
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$3 \$5 \$2 \$1 PMOS L=4u W=12u AS=33.6p AD=18p PS=29.6u PD=15u
* device instance $2 r0 *1 18.8,16.2 PMOS
XM$2 \$2 \$5 \$3 \$1 PMOS L=4u W=12u AS=18p AD=33.6p PS=15u PD=29.6u
.ENDS PFET_CASCODE_BOTTOM

* cell NFET_CS_TOP
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CS_TOP \$1 \$2 \$4 VSS
* device instance $1 r0 *1 4.8,17.6 NMOS
XM$1 \$1 \$2 \$4 VSS NMOS L=4u W=6u AS=16.8p AD=9p PS=17.6u PD=9u
* device instance $2 r0 *1 11.8,17.6 NMOS
XM$2 \$4 \$2 \$1 VSS NMOS L=4u W=6u AS=9p AD=16.8p PS=9u PD=17.6u
.ENDS NFET_CS_TOP

* cell NFET_CS_BOTTOM
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CS_BOTTOM \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,16.3 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
.ENDS NFET_CS_BOTTOM

* cell PFET_CS_TOP
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CS_TOP \$1 \$2 \$3 \$7
* device instance $1 r0 *1 11.8,13.2 PMOS
XM$1 \$7 \$3 \$1 \$2 PMOS L=4u W=6u AS=16.8p AD=9p PS=17.6u PD=9u
* device instance $2 r0 *1 18.8,13.2 PMOS
XM$2 \$1 \$3 \$7 \$2 PMOS L=4u W=6u AS=9p AD=9p PS=9u PD=9u
* device instance $3 r0 *1 25.8,13.2 PMOS
XM$3 \$7 \$3 \$1 \$2 PMOS L=4u W=6u AS=9p AD=9p PS=9u PD=9u
* device instance $4 r0 *1 32.8,13.2 PMOS
XM$4 \$1 \$3 \$7 \$2 PMOS L=4u W=6u AS=9p AD=16.8p PS=9u PD=17.6u
.ENDS PFET_CS_TOP

* cell PFET_CS_BOTTOM
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CS_BOTTOM \$1 \$2 \$3 \$4
* device instance $1 r0 *1 11.8,13.2 PMOS
XM$1 \$3 \$4 \$2 \$1 PMOS L=4u W=6u AS=16.8p AD=9p PS=17.6u PD=9u
* device instance $2 r0 *1 18.8,13.2 PMOS
XM$2 \$2 \$4 \$3 \$1 PMOS L=4u W=6u AS=9p AD=16.8p PS=9u PD=17.6u
.ENDS PFET_CS_BOTTOM
