* Created by KLayout
*** My special header ***

* cell opamp_r2r_diff_chihiro
* pin BNI
* pin BNO
* pin BPI
* pin BPO
* pin INM
* pin INM_N
* pin INM_P
* pin INP
* pin INP_N
* pin INP_P
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_diff_chihiro BNI BNO BPI BPO INM INM_N INM_P INP INP_N INP_P
+ VDD VSS
* device instance $1 m90 *1 -472368.8,-105215.4 PMOS
XM$1 INM_P INM \$48 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $5 r0 *1 -472460.2,-105215.4 PMOS
XM$5 INP_P INP \$48 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $9 m90 *1 -472368.8,-105171.5 PMOS
XM$9 \$48 BPI \$62 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $13 r0 *1 -472460.2,-105171.5 PMOS
XM$13 \$48 BPI \$59 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $17 m90 *1 -472368.8,-105128.9 PMOS
XM$17 VDD BPO \$62 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $21 r0 *1 -472460.2,-105128.9 PMOS
XM$21 VDD BPO \$59 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $25 r0 *1 -472450.2,-105355 NMOS
XM$25 \$2 BNO VSS VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $27 r0 *1 -472450.2,-105311.9 NMOS
XM$27 \$2 BNI \$16 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $29 m90 *1 -472378.8,-105355 NMOS
XM$29 \$3 BNO VSS VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $31 m90 *1 -472378.8,-105311.9 NMOS
XM$31 \$3 BNI \$16 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $33 m90 *1 -472378.8,-105270.4 NMOS
XM$33 \$16 INM INM_N VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $35 r0 *1 -472450.2,-105270.4 NMOS
XM$35 \$16 INP INP_N VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
.ENDS opamp_r2r_diff_chihiro
